US06362177B1
A solution of 2-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine (22.5 mg, 0.10 mmol) and dl-benzoylleucine (0.12 mmol) in CHCl3; (1 mL) was treated with EDCI (23 mg), HOBt (16.2 mg) and Et3N (15.2 μL), and stirred at 25° C. for 16 h. The reaction mixture was diluted with CH2Cl2 (0.5 mL), washed with 2 N aqueous NaOH solution (2×0.75 mL), dried by filtration through a PTFE membrane and concentrated to afford 2-((N-benzoylleucyl)aminomethyl)-1-(4-chlorobenzyl)pyrrolidine (compound No. 344) (74 mg, quant): The purity was determined by RPLC/MS (85%); ESI/MS m/e 442 (M++H, C25H32ClN3O2).

reactant | 2-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine | 0.10 mmol, 22.5 mg | NCC1N(CCC1)CC1=CC=C(C=C1)Cl | C12H17ClN2
reactant | benzoylleucine | 0.12 mmol | C(C1=CC=CC=C1)(=O)N[C@@H](CC(C)C)C(=O)O | C13H17NO3
reactant | EDCI | 23 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 16.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 15.2 μL | CCN(CC)CC | C6H15N
product | 2-((N-benzoylleucyl)aminomethyl)-1-(4-chlorobenzyl)pyrrolidine | C(C1=CC=CC=C1)(=O)N[C@@H](CC(C)C)C(=O)NCC1N(CCC1)CC1=CC=C(C=C1)Cl | C25H32ClN3O2
